US07745438B2
(2R,5R)-5-[(1S,2S)-2-Amino-3-(3-chloro-5-fluorophenyl)-1-hydroxypropyl]-2-(2,2-dimethylpropoxy)-morpholine-4-carboxylic acid tert-butyl ester
Dissolve (2R,5R)-5-[(1R,2S)-3-(3-chloro-5-fluorophenyl)-1-hydroxy-2-nitropropyl]-2-(2,2-dimethylpropoxy)-morpholine-4-carboxylic acid tert-butyl ester (0.455 g, 0.901 mmol) in methanol (8 mL) and stir at room temperature in an oil bath. Add anhydrous nickel (II) chloride (0.175 g, 1.35 mmol) followed by sodium borohydride (0.170 mg, 4.50 mmol) in 3 portions over 5 minutes and stir for 15 minutes. Add water (2 mL), 0.1 N sodium hydroxide (2 mL) and extract with ethyl acetate (2×30 mL). Combine organic extracts, wash with saturated aqueous sodium chloride (30 mL), dry (sodium sulfate), filter through a pad of Celite® and concentrate to give the desired compound as a colorless oil (0.428 g).

reactant | (2R,5R)-5-[(1R,2S)-3-(3-chloro-5-fluorophenyl)-1-hydroxy-2-nitropropyl]-2-(2,2-dimethylpropoxy)-morpholine-4-carboxylic acid tert-butyl ester | 0.901 mmol, 0.455 g | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)Cl)[N+](=O)[O-])O)OCC(C)(C)C | C23H34ClFN2O7
reactant | sodium borohydride | 4.50 mmol, 0.170 mg | [BH4-].[Na+]
solvent | methanol | 8 mL | CO | CH4O
catalyst | nickel (II) chloride | 1.35 mmol, 0.175 g | [Ni](Cl)Cl
product | (2R,5R)-5-[(1S,2S)-2-Amino-3-(3-chloro-5-fluorophenyl)-1-hydroxypropyl]-2-(2,2-dimethylpropoxy)-morpholine-4-carboxylic acid tert-butyl ester | 0.428 g | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)Cl)N)O)OCC(C)(C)C | C23H36ClFN2O5
